US04440940
A warm solution of 3-[N-carbobenzyloxy-(allylamino]phenylacetyl chloride and 1.3 g. triethylamine in 100 ml. ether is treated with 2 g. malic acid. An immediate precipitate forms, but the mixture is refluxed for one hour and filtered while hot. The solid is washed several times with hot ether, then the ether is evaporated to yield a white solid. The product is dissolved in tetrahydrofuran (100 ml.) and hydrogenated over 600 mg. 10% palladium-on-carbon at 50 psi until hydrogen uptake stops. The catalyst is filtered, and the solution is evaporated. The residue is crystallized from acetic acid to yield O-[3-(allylamino)phenylacetyl]malic acid.

reactant | N-carbobenzyloxy-(allylamino]phenylacetyl chloride | C(=O)(OCC1=CC=CC=C1)N(CC=C)C(C(=O)Cl)C1=CC=CC=C1 | C19H18ClNO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | hydrogen | [H][H] | H2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | O-[3-(allylamino)phenylacetyl]malic acid | C(C=C)NC=1C=C(C=CC1)CC(=O)OC(C(O)CC(=O)O)=O | C15H17NO6
